2142-09-09 06:47:00 Physician Resident Progress Note
TITLE:  CCU Progress Note
   Chief Complaint: AV endocarditis
   24 Hour Events:
   - Throughout the day yesterday, patient began to have increased work of
   breathing and his anemia was worsening
   -Given 2 units blood and put out lots of urine (2L+) with 40mg IV Lasix
   and then 20mg IV Lasix
   -Patient had repeat TTE that showed markedly worsening aortic valve.
   He was transferred back to the CCU.
   -A TEE  was done that showed the abscess was larger, but valve not
   acutely falling apart
   -CT surgery, ID, and CCU team jointly decided that the best course
   would be surgery in the morning morning ([**9-9**]).
   -FU Hct 27.5 after blood (up from 22.9).
   -Started gentamicin 90 mg IV Q8H because infection still growing
   -Patient had MRA of brain and per prelim read, no mycotic aneurysm.
   Post-cath check was done 6 hours after this procedure with no hematoma,
   bruit, and pulses in lower extremities stable from prior to the exam.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2142-9-6**] 01:00 PM
   Ampicillin - [**2142-9-9**] 04:38 AM
   Gentamicin - [**2142-9-9**] 05:27 AM
   Infusions:
   Heparin Sodium - 2,200 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2142-9-8**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-9-9**] 05:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.9
C (98.4
   HR: 76 (76 - 117) bpm
   BP: 88/54(61) {75/42(50) - 103/75(78)} mmHg
   RR: 22 (17 - 40) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.6 kg (admission): 76.1 kg
   Height: 70 Inch
             Total In:
                                                                    977 mL
                                                                    431 mL
   PO:
                                                                    800 mL
             TF:
   IVF:
                                                                    177 mL
                                                                    431 mL
   Blood products:
   Total out:
                                                                  3,675 mL
                                                                    800 mL
   Urine:
                                                                  3,675 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,698 mL
                                                                   -369 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   GENERAL: NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. [**Doctor Last Name **] Spot in left eye resolving; Sclera anicteric. PERRL,
   EOMI. Conjunctiva were pink, no pallor or cyanosis of the oral mucosa.
   No xanthalesma.
   NECK: Supple with no increased JVP
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. Harsh [**5-14**] crescendo/decrescendo systolic murmur heard
   best at the right sternal border on the clavicle; radiating to
   carotids, apex, and back.  Mild lift. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, slight crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: Slight peripheral edema; warm and dry
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:  Right: DP 2+ PT 2+, Left: DP: non-palpable (biphasic on
   Doppler) PT: 1+
   Labs / Radiology
   285 K/uL
   8.6 g/dL
   106 mg/dL
   1.2 mg/dL
   25 mEq/L
   4.1 mEq/L
   24 mg/dL
   99 mEq/L
   136 mEq/L
   26.4 %
   8.9 K/uL
        [image002.jpg]
                             [**2142-9-3**]  02:30 PM
                             [**2142-9-4**]  06:03 AM
                             [**2142-9-5**]  05:57 AM
                             [**2142-9-5**]  08:59 PM
                             [**2142-9-6**]  04:57 AM
                             [**2142-9-8**]  08:11 PM
                             [**2142-9-9**]  02:23 AM
   WBC
   8.8
   8.6
   8.3
   8.3
   10.5
   8.9
   Hct
   29.9
   29.8
   26.4
   26.1
   26.6
   27.5
   26.4
   Plt
   243
   236
   230
   [**Telephone/Fax (3) 9841**]
   Cr
   1.2
   1.2
   1.0
   0.9
   1.2
   1.2
   TropT
   0.38
   Glucose
   103
   159
   90
   94
   151
   106
   Other labs: PT / PTT / INR:15.8/47.9/1.4, CK / CKMB /
   Troponin-T:33/3/0.38, ALT / AST:[**1-29**], Alk Phos / T Bili:69/1.0,
   Differential-Neuts:79.3 %, Lymph:15.1 %, Mono:2.7 %, Eos:2.7 %,
   Albumin:3.1 g/dL, LDH:711 IU/L, Ca++:9.2 mg/dL, Mg++:1.9 mg/dL, PO4:4.3
   mg/dL
   Urine cx
 final read no growth
   Blood cx
 NGTD, pending
   Assessment and Plan
   28 yo with h/o aortic valvuloplasty, recurrent endocarditis, AVR x 2
   who presented with enterococcal bacteremia causing dehiscence of aortic
   valve replacement ring/right fibrous trigone, in the setting of
   profound hemolytic anemia secondary to valvular damage.  He appeared to
   stabilized after admission, but the became anemia again and developed
   worsening symptoms of heart failure yesterday.
   .
   # Endocarditis: He has had embolic phenomena to L foot, L eye, coronary
   artery, cerebral hemispheres, and left cerebellum. Patient with dental
   filling replacement in [**Month (only) 1563**], even though patient took antibiotics, he
   started to feel increasingly tired some time after this procedure.
   Since patient denies IVDU, it is likely the dental procedure is the
   source of his enterococcus bacteremia.   He is currently
   hemodynamically stable but worsening overall.  He will go for CT
   surgery today for AVR and possible CABG.  Have stopped Ceftriaxone and
   started Gentamicin, as this is the proven treatment for enterococcal
   endocarditis.
   - CT surgery today for AVR and ?CABG
   - ID Consulting and appreciate recs
   - Continue Ampicllin (Day 4 at [**Hospital1 54**]) and Gentamicin (Day 2 at [**Hospital1 54**])
   per ID recs; given per PICC
   - BCx pending
   - Panorex (dental films) negative for infectious process in mouth.
   # Aortic Valve Replacement: Patient with dehiscent aortic valve in the
   right fibrous trigone, likely due to a lost stitch. Patient
   hemodynamicaly stable but with worsening disease and advancement of
   infection on TTE/TEE.
   - CT Surgery today
   - Continue Metoprolol 37.5 TID to keep HR < 70 in order to reduce sheer
   force
   - Have stopped coumadin (INR today=1.4), now on heparin drip which will
   be continued until surgery
   - Holding carvedilol due to low BP
   - CT surgery may end up doing CABG at the same time as AVR, as
   currently coronaries are implanted into aortic graft
   # Anemia: Most likely [**3-12**]. CT aorta ruled out aortoenteric fistula but
   some concern for GI bleed in guaiac positive patient that is throwing
   emboli.  Anemia also likely secondary to marrow suppression from an
   active inflammatory state.
   - Hct stable at 26.4 today.  Have type and crossed 5 units in
   preparation for surgery.
   - Metoprolol to decrease shear stress.
   - Recommend transfusion for Hct <21
   # L foot embolic disease: Foot appears warm and well perfused
   currently, although DP/PT pulses are decreased on left. ABI shows
   severe left tibial disease. Patient stable and actually with decreased
   pain.
   - MRA of left foot shows occlusive arteries
   - Interventional Cards following and appreciate recs
 will monitor at
   this point, no intervention at this time
   - Follow pulses daily
   # Coronaries: Cardiac Cath [**3-17**] showed clean coronaries. Patient did
   have a troponin I elevation of 0.37 in OSH. Patient with new wall
   motion abnormality on TTE at admission concerning for emboli in the
   coronaries..
   - [**Month (only) 60**] get CABG at same time of AVR today
   - Will continue to monitor for signs of acute ischemia
   .
   #Hx of IVDU: Patient states he has not used IVDU since prior to his
   second surgery in [**2139**]. Patient on suboxone in outpatient;
   - Have been tapering suboxone in preparation for surgery
   - [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 2446**] of addiction service is following with management of
   subxone and guidelines regarding pain management in the post-op period
   - Recommend aggressive pain management in the post-op period, as
   patient had major issues with pain at his last surgery
   - Hepatitis C serology negative
   .
   # Pump: Patient with h/o of CHF prior to AVR (SEVERE AI). Now, patient
   with no signs of fluid overload; EF on TTE in  [**2141-11-27**] (after AVR) was
   > 55% with normal filling pressures PCWP < 12. New echo shows worsening
   EF due to AV disease.  Diuresed well with total 60mg IV lasix yesterday
   (40mg IV + 20mg IV)
   - Continue to diurese as necessary
   .
   # Rhythm: Patient currently in NSR with HR in the 70
   - Continue to monitor on telemetry for signs of AV block that might
   represent worsening infection
    # Acute Renal Failure:  baseline of 0.8. OSH peaked at 1.9, today is
   1.2. Likely due to pre-renal etiology with continued diuresis and
   hypotensive state in OSH.
   - Continue to follow
   # Anxiety: Patient with anxiety pre-op.  Have been using Ativan 1mg po
   q4h prn for anxiety which works well.
   - Continue Ativan prn
   ICU Care
   Nutrition:  NPO in preparation for surgery
   Glycemic Control: None
   Lines: PICC line [**2142-9-4**], 20 Gauge - [**2142-9-3**] 04:00 PM
   Prophylaxis:
          DVT:  On heparin drip
          Stress ulcer:  Pantoprazole
          VAP:  Not intubated
   Communication:  Patient and parents: Father [**Telephone/Fax (1) 9797**] (HCP), Mother
   [**Telephone/Fax (1) 9798**]
   Code status: Full code
   Disposition: To CT surgery today